US07365085B2
c) (3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-(2-thiophen-2-yl-propyl)-amino]-propoxy}-phenyl)-acetic acid methyl ester
A solution of (3-{3-bromo-propoxy}-phenyl)acetic acid methyl ester (41 mg, 0.14 mmol) and (2-chloro-3-trifluoromethyl-benzyl)-(2-thiophen-2-yl-propyl)-amine (50 mg, 10.14 mmol) in acetonitrile (10 ml) was treated with solid potassium carbonate (24.9 mg, 0.18 mmol). The reaction was heated to reflux and stirred for 48 h. Upon cooling to room temperature, the reaction was filtered through a pad of celite, washed with EtOAc, and the filtrate was concentrated in vacuo. The crude product was purified by column chromatograph (EtOAc:Hexane/20:80) to give the title compound as an oil (25 mg, 30%). MS m/e 540.6 (M+H)+.

reactant | (3-{3-bromo-propoxy}-phenyl)acetic acid methyl ester | 0.14 mmol, 41 mg | COC(CC1=CC(=CC=C1)OCCCBr)=O | C12H15BrO3
reactant | (2-chloro-3-trifluoromethyl-benzyl)-(2-thiophen-2-yl-propyl)-amine | 10.14 mmol, 50 mg | ClC1=C(CNCC(C)C=2SC=CC2)C=CC=C1C(F)(F)F | C15H15ClF3NS
reactant | potassium carbonate | 0.18 mmol, 24.9 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-(2-thiophen-2-yl-propyl)-amino]-propoxy}-phenyl)-acetic acid methyl ester | 25 mg, 30% | COC(CC1=CC(=CC=C1)OCCCN(CC(C)C=1SC=CC1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | C27H29ClF3NO3S
